US06878714B2
N-[4-(tert-Butyl)phenyl]{6-fluoro-2-[(4-pyridylmethyl)amino](3-pyridyl)}carboxamide
A solution of 2,6-difluoropyridine-3-carboxylic acid (3.2 g, 20 mmol), t-butylaniline (3.0 g, 20 mmol), HOBt (2.6 g, 20 mmol), EDAC (8 g, 40 mmol), and DIEA (8 mL) in CH2Cl2 (80 mL) was stirred at RT for 1 h. The mixture was washed with aq. NaHCO3 and brine. The organic solution was dried over Na2SO4 and concentrated in vacuo The residue was purified via flash chromatography on silica (Hex:EtOAc=4:1) to give a light yellow flaky crystal as desired product.

reactant | 2,6-difluoropyridine-3-carboxylic acid | 20 mmol, 3.2 g | FC1=NC(=CC=C1C(=O)O)F | C6H3F2NO2
reactant | t-butylaniline | 20 mmol, 3.0 g | C(C)(C)(C)NC1=CC=CC=C1 | C10H15N
reactant | HOBt | 20 mmol, 2.6 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDAC | 40 mmol, 8 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | DIEA | 8 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | N-[4-(tert-Butyl)phenyl]{6-fluoro-2-[(4-pyridylmethyl)amino](3-pyridyl)}carboxamide | C(C)(C)(C)C1=CC=C(C=C1)NC(=O)C=1C(=NC(=CC1)F)NCC1=CC=NC=C1 | C22H23FN4O
